US05866576
This example illustrates a synthesis of 1-Methyl-3-(8,9-oxidononyl)uracil (inventive compound no. 1804). Sodium hydride (365 mg, 16 mmol) was added to a stirring solution of 1-methyluracil (2.00 g, 16 mmol) in dimethyl sulfoxide (40 mL). After 15 minutes, 6-bromo-1-nonene (3.26 g, 16 mmol) was added and the mixture stirred for 3 days. The reaction was then poured into water (50 mL) and extracted with dichloromethane (3×60 mL). The combined organic layers were washed with water (50 mL), and aqueous saturated salt solution (30 mL) was then dried over sodium sulfate. The solvent was evaporated under vacuum to yield 3.72 g (94%) 1-methyl-3-(8-nonenyl)uracil (inventive compound no. 1817) as a colorless oil which solidified upon standing.

reactant | Sodium hydride | 16 mmol, 365 mg | [H-].[Na+]
reactant | 1-methyluracil | 16 mmol, 2.00 g | CN1C(=O)NC(=O)C=C1 | C5H6N2O2
reactant | 6-bromo-1-nonene | 16 mmol, 3.26 g | BrC(CCCC=C)CCC | C9H17Br
reactant | water | 50 mL | O | H2O
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 1-methyl-3-(8-nonenyl)uracil | 3.72 g, 94% | CN1C(=O)N(C(=O)C=C1)CCCCCCCC=C | C14H22N2O2
